US07943607B2
3-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(1-methyl-1H-indol-5-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (202 mg, 0.5 mmol), 1-methylindole-5-boronic acid (131 mg, 0.75 mmol), copper (II) acetate (138 mg, 0.75 mmol), triethylamine (0.35 mL, 2.5 mmol) and freshly activated 4A molecular sieves (1 g) in DCM (10 mL) was stirred at ambient temperature and under ambient atmosphere for 2 days. The reaction mixture was filtered through Celite, washed with DCM (2×10 mL), the DCM removed in vacuo and the residual oil partitioned between ethyl acetate (25 mL) and water (25 mL). The ethyl acetate layer was separated, washed with aqueous sodium hydrogen carbonate solution, brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with 40% ethyl acetate in iso-hexane, to give the desired compound (128 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.5 mmol, 202 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | 1-methylindole-5-boronic acid | 0.75 mmol, 131 mg | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.75 mmol, 138 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-[(1-methyl-1H-indol-5-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 128 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC=1C=C2C=CN(C2=CC1)C)C | C29H38N4O4Si
